US04539202
(a) N-[4-(Benzyloxycarbonyl)butyl]-N-(2-methyl-3-phenylallyl)amine
13.7 g (36 mM) of 4-(benzyloxycarbonyl)butylamine para toluene sulphonate salt was stirred vigorously in ethyl acetate--water whilst being treated with aqueous sodium hydroxide to pH 9.5. The organic phase was washed with saturated brine, dried (anhydrous magnesium sulphate), benzyl alcohol (100 cm3) added, and the ethyl acetate evaporated. The solution was treated with one equivalent of α-methylcinnamaldehyde and stirred for 1/2 hour. Dichloromethane (50 cm3) was added and the reaction mixture treated with excess sodium borohydride. The mixture was filtered and the filtrate diluted with dichloromethane (100 cm3), washed with saturated brine (4×150 cm3) and dried (anhydrous magnesium sulphate). The dichloromethane was removed by evaporation under reduced pressure and the residue diluted with diethyl ether (300 cm3). This solution was treated with excess para toluene sulphonic acid in ether. The resultant crystals were filtered off, washed with ether and dried to yield 2.7 g (15%) of the title compound as a para-toluene sulphonate salt. This salt was extracted into ethyl acetate with aqueous sodium hydroxide (pH 9-10). The organic phase was washed with saturated brine, dried (anhydrous magnesium sulphate) and evaporated to an oil, yield=1.85 g (15%), (film) 3330, 1735, 1450, 1155, 750, 700 cm-1 ; (CDCl3) 1.35-2.00 (5H, m), 1.85 (3H, d, J 1 Hz), 2.37 and 2.62 (4H, 2×t, J 6.5 Hz), 3.27 (2H, s), 5.10 (2H, s), 6.42 (1H, broad s), 7.26 and 7.34 (10H, 2×s).

reactant | 4-(benzyloxycarbonyl)butylamine para toluene sulphonate salt | 36 mM, 13.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(=O)CCCCN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | α-methylcinnamaldehyde | one equivalent | CC(C=O)=CC1=CC=CC=C1 | C10H10O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Dichloromethane | 50 cm3 | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[4-(Benzyloxycarbonyl)butyl]-N-(2-methyl-3-phenylallyl)amine | 2.7 g, 15% | C(C1=CC=CC=C1)OC(=O)CCCCNCC(=CC1=CC=CC=C1)C | C22H27NO2
